Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CHIEF COMPLAINT: "I just couldn't take it anymore."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ woman with a history of 
adolescent-onset depression who self-presented to the ED 
reporting worsening depression with suicidal thoughts.
.
Pt states that she was at an appointment with her therapist 
today, and they decided together that she could benefit from a 
higher level of care. The pt states that she has felt 
increasingly depressed since ___ in the setting of many deaths 
in her family as well as the failing health of an aunt to whom 
she is close; this aunt is now living with the pt and her 
mother. Pt also reports feeling financially "strapped" and 
having difficulty obtaining a job (has been working part time 
intermittently for the last few years). Within the last 4 weeks, 
the pt has been feeling acutely worse and has been thinking 
frequently about wanting to die. She reports that she is "tired 
of coping" and feels completely overwhelmed. She endorses 
feelings of hopelessness and worthlessness, and states 
repeatedly that she does not believe her life will ever improve, 
and that "it is always just one thing after another." She 
describes her life as a living hell.
.
Reports difficulty sleeping, despite taking quetiapine nightly, 
low energy, anhedonia, and poor concentration. Denies any 
history of manic or psychotic symptoms."
.
In the ED, patient remained in good behavioral control and did 
not require physical or chemical restraints. 
.
On admission, patient states "I want to be in the hospital. I am 
just at the point now where I would rather be dead than do 
this." She has been adhering to a therapy program and taking 
Effexor for her depression, but says that the treatment plans in 
place with her outpatient providers are no longer controlling 
her symptoms. She has notably suffered tremendous losses in her 
family, including a suicide, within the past ___ years. For the 
past several months, her symptoms have slowly worsened in spite 
of ongoing outpatient psychotherapy and pharmacotherapy. Patient 
states that she feels "desperate" and endorses hopelessness and 
inability to
concentrate. She has been sleeping poorly this past week in 
particular, and says that Seroquel is no longer working as well 
as it used to for her insomnia. She endorses SI with no plan, 
and denies HI/AVH. 
 
Past Medical History:
PAST MEDICAL HISTORY:
History of concussion in ___ patient still experiences
intermittent disequilibrium, which she attributes to her
concussion. She says these symptoms worsen during times of
stress.
.
PAST PSYCHIATRIC HISTORY 
Pt reports symptoms of depression as early as middle school, and
resurfacing more acutely during ___ grade in the context of 
academic stress and applying to college. She has been in 
treatment since age ___ (in college). History of 1 prior 
month-long stay at ___ in ___ at ___, and a prior CSU stay 
in ___ (though states that she left the day after arrival).
Currently being seen by psychiatrist and therapist regularly 
(Dr.
___, psychiatrist, ___ ___, 
therapist,
___ - both at ___. 
- Per record review from ___, pt has a history 
of
"depression with psychotic features" diagnosed in ___. At that
time, she reported SI and paranoia, as well as self-harming
behavior such as scratching herself with kitchen 
knives/forks/paper clips. "Paranoia" was further characterized 
as
being afraid to leave her apartment for fear that someone would
see her, follow her, and physically harm her. She reported
improvement in depression and paranoia with citalopram and
psychotherapy.
- Pt treated at ___ by Dr. ___ from ___. Per 
notes
in EMR, no documentation of psychosis
- Med trials include citalopram, bupropion, methylphenidate,
venlafaxine, quetiapine.

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY
- mother: postpartum depression
- cousin: ?schizophrenia
- cousin: depression
- maternal aunt: depression
 
Physical ___:
ADMISSION PHYSICAL EXAM:
.
VITAL SIGNS: 98.2  ___  18  98%
.
PHYSICAL EXAM:
General:
-HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear, supple neck.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive. Discomfort
to palpation throughout. No guarding, no rebound tenderness.
-Extremities: Warm and well-perfused. No edema of the limbs.
-Skin: No rashes or lesions noted.
.
Neurological:
-Cranial Nerves:
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally. 
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: patellar reflexes 2 bilaterally
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing. 
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: accurately states days of the week backward
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall
-Fund of knowledge: accurately states last three US presidents
-Calculations: quarters in $1.75= "7"
-Abstraction: watch/ruler = measurement
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
.
Mental Status:
-Appearance: well groomed woman who appears stated age, sitting
up in chair, in NAD
-Behavior: sometimes makes eye contact, no psychomotor agitation
or retardation
-Attitude: calm and cooperative, forthcoming
-Mood: "depressed"
-Affect: Mood-congruent, limited range, withdrawn, appropriate 
to
situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: endorses passive SI, denies plan, denies HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: poor

 
Pertinent Results:
___ 02:30PM BLOOD WBC-6.9 RBC-4.82 Hgb-13.5 Hct-39.1 
MCV-81* MCH-28.0 MCHC-34.5 RDW-12.8 RDWSD-37.4 Plt ___
___ 02:30PM BLOOD Glucose-85 UreaN-7 Creat-0.6 Na-140 K-4.8 
Cl-103 HCO3-21* AnGap-16
___ 01:00PM BLOOD ALT-10 AST-15 AlkPhos-89 TotBili-0.2
___ 01:00PM BLOOD Cholest-195
___ 01:00PM BLOOD VitB12-197* Folate-11
___ 01:00PM BLOOD %HbA1c-4.8 eAG-91
___ 01:00PM BLOOD Triglyc-182* HDL-65 CHOL/HD-3.0 
LDLcalc-94
___ 01:00PM BLOOD TSH-0.53
___ 02:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:00PM BLOOD METHYLMALONIC ACID-PND
___ 01:00PM BLOOD INTRINSIC FACTOR ANTIBODY-PND
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
Patient initially refused to sign a conditional voluntary 
agreement and was admitted on a ___. On ___ patient 
agreed to sign a conditional voluntary agreement (section 10 & 
11) and that level status remained in place throughout the 
admission. She was also placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted.
.
2. PSYCHIATRIC:
#) Major depressive disorder
- Initially, patient reported worsening depressive symptoms 
including hopelessness, worthlessness, poor sleep, low energy, 
and passive suicidal ideation in the setting of ongoing 
psychosocial stressors including being the caretaker for her 
sick aunt and multiple recent family deaths
- She was noted to have a restricted affect, though was 
reactive, talkative nature, and linear thought process.
- Patient had been stable on home Effexor ER 150 mg daily (and 
noted that in the past she had not tolerated a higher dose).
- She had recently been started on Seroquel 50 mg QHS for sleep 
though she noted that though this had been effective initially, 
it was no longer effective. Given concern for metabolic side 
effects, the team suggested initiation of trazodone so this was 
started at 50 mg and patient found this to be effective and 
outpatient psychiatrist was in agreement with this medication 
change. Seroquel was discontinued. 
- Patient was in agreement with plan for referral to partial 
program and team was able to refer her to ___ starting 
___ and was discharged directly to this intake. 
- By the time of discharge, patient was noted to be more 
reactive, engaged in groups and individual therapy and more 
insightful regarding needing to take time for herself despite 
ongoing psychosocial stressors. 
- At the time of discharge she reported improved mood, was 
future oriented, and denied suicidal ideation. 
.
3. SUBSTANCE USE DISORDERS:
Ms. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.
.
4. MEDICAL
Ms. ___ was medically cleared in the ED; no acute medical 
issues prevented admission to Deac 4.
.
#) Vitamin B12 Deficiency
- Routine admission labs showed a Vitamin B12 level of 197. 
Patient reported that she eats a full diet (is not vegetarian or 
vegan) so etiology was unclear. She was started on 
supplementation with oral Vitamin B12 1000 mcg daily. 
- Methylmalonic acid and intrinsic factor antibody were pending 
at the time of discharge and she will follow up with her PCP 
with regards to this. 
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___ was encouraged to participate in the various 
groups and milieu therapy opportunities offered by the unit.  
The occupational therapy and social work groups that focus on 
teaching patients various coping skills. Initially, patient was 
isolative and spent most of the day in bed but after 
encouragement she began to attend groups where she was noted to 
be engaged, participatory and insightful. She was also noted to 
be appropriately interacted with staff and peers.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ gave permission for the team to contact her 
outpatient psychiatrist, Dr. ___, and outpatient 
therapist, Dr. ___. Both were provided with a summary of 
Ms. ___ presentation to the ___ ED/Deac 4 and an update 
of her progress since admission on Deac 4, and they provided 
collateral information and treatment recommendations.
.
Ms. ___ gave verbal and written permission for the team to 
meet with her mother, who was also given an update on patient's 
progress while admitted and discharge plan. 
.
6. INFORMED CONSENT: 
Medication: Trazodone
---Intended effects/Benefits: treatment of insomnia
---Adverse effects/Risks: sedation, headache, dizziness, 
fatigue, dry mouth, nausea

Ms. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She appeared to appreciate the information conveyed 
in the consent process by asking appropriate questions, which 
were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above).  
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment.  Ms. ___ understood the above and 
consented to begin the medication.
.
7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at 
an increased risk of harm to self. Ms. ___ static risk 
factors noted at that time include chronic mental illness and 
history of self-injurious behavior.  The modifiable risk factors 
identified were as such: hopelessness, social withdrawal, 
insomnia.  These modifiable risk factors were addressed with 
acute stabilization in a safe environment on a locked inpatient 
unit, psychopharmacologic adjustments, psychotherapeutic 
interventions (OT groups, SW groups, individual therapy meetings 
with psychiatrists), and presence on a social milieu 
environment. Patient is being discharged with many protective 
factors, including female gender, willingness to seek treatment, 
future orientation, history of adherence to outpatient treatment 
plan, good relationship with outpatient providers, lack of 
suicidal ideation, strong social supports, and no access to 
lethal weapons.  Overall, based on the totality of our 
assessment at this time, Ms. ___ is not at an acutely 
elevated risk of harm to self nor danger to others. 
.
Our prognosis of this patient is good.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 50 mg PO QHS 
2. Venlafaxine XR 150 mg PO DAILY 
3. drospirenone-ethinyl estradiol ___ mg oral DAILY 

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  TraZODone 50 mg PO QHS 
RX *trazodone 50 mg 1 tablet(s) by mouth nightly Disp #*14 
Tablet Refills:*0 
3.  drospirenone-ethinyl estradiol ___ mg oral DAILY  
4.  Venlafaxine XR 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent

 
Discharge Condition:
VS: T 98.1, BP 120/72, HR 93, RR 16, O2 98%RA

A: age-appearing F, well-groomed, fair hygiene, NAD
B: Calm and cooperative, pleasant
S: normal rate/volume
M: 'ok'
A: restricted
TP: linear, goal-directed
TC: future-oriented, denies SI/HI/AVH
I/J: good/fair

 
Discharge Instructions:
You were admitted to the hospital due to worsening depression in 
the setting of multiple stressors. While you were here we 
managed your medications to help with sleep, reached out to your 
outpatient psychiatrist and therapist and referred you to a 
partial program. While you were here we found that your Vitamin 
B12 level was low so we started you on a supplement. You should 
follow up with your PCP regarding this.
=
=
=
================================================================
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___